US07326699B2
cis-1-{3-[4-Amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-3-(4-methoxy-benzyl)-urea is prepared as described in Example 26 using cis-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine and 4-methoxybenzyl isocyanate (Aldrich, Buchs, Switzerland). Analytical HPLC: tR=7.21 min (Grad 2); ES-MS: m/eo=562.9.

reactant | cis-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | NC[C@H]1C[C@H](C1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C24H25N5O
reactant | 4-methoxybenzyl isocyanate | COC1=CC=C(CN=C=O)C=C1 | C9H9NO2
product | cis-1-{3-[4-Amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-3-(4-methoxy-benzyl)-urea | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)CNC(=O)NCC2=CC=C(C=C2)OC | C33H34N6O3
